US05750779
To 9.72 g (0.0575 mole) of 2-chloro-1,3-dimethylimidazolinium chloride, 83 g of toluene was added and successively 8.61 g (0.05 mole) of p-toluenesulfonic acid was added. The mixture was reacted at 110° C. for 4 hours. The reaction mass was analyzed by gas chromatography. p-Toluenesulfonyl chloride was obtained in the yield of 93.2%.

reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.0575 mole, 9.72 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | p-toluenesulfonic acid | 0.05 mole, 8.61 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 83 g | C1(=CC=CC=C1)C | C7H8
product | p-Toluenesulfonyl chloride | yield of 93.2% | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
